US04548932
A solution of 3(S)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.dihydrochloride (0.3 g) in 1N sodium hydroxide solution (10 ml) is allowed to stand for 30 minutes at room temperature. After addition of acetic acid (2.5 ml), the mixture is subjected to Amberlite XAD-2 column chromatography eluting with methanol-water (1:2). The eluate is concentrated under reduced pressure and lyophilized to yield 3(S)-[8-amino-1(S)-carboxyoctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid (0.2 g) as colorless powder.

reactant | 3(S)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.dihydrochloride | 0.3 g | Cl.Cl.NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 3(S)-[8-amino-1(S)-carboxyoctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid | 0.2 g | NCCCCCCC[C@@H](C(=O)O)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C20H29N3O6
